US07238808B2
4-[4-Difluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo [1,5-a]pyrimidin-8-ylethynyl]-benzenesulfonamide
The title compound was prepared from 4-difluoromethyl-8-ethynyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine (example C.31) (190 mg, 0.56 mmol) and commercially available 4-bromo-benzenesulfonamide (133 mg, 0.56 mmol) according to general procedure II. Obtained as a brown solid (184 mg, 66%). MS (ISN) 491.2 [(M−H)−]; mp 282° C.

reactant | 4-difluoromethyl-8-ethynyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine | 0.56 mmol, 190 mg | FC(C1=CC(=NC=2N1C=NC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 4-bromo-benzenesulfonamide | 0.56 mmol, 133 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[4-Difluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo [1,5-a]pyrimidin-8-ylethynyl]-benzenesulfonamide | FC(C1=CC(=NC=2N1C=NC2C#CC2=CC=C(C=C2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F)F | C22H13F5N4O2S
